US07834049B2
7-Bromo-3-chloro-4-methyl-1H-indole
4.0 g (30.0 mmol) of N-chlorosuccinimide was added to an acetonitrile solution (250 ml) containing 5.8 g (27.6 mmol) of 7-bromo-4-methyl-1H-indole synthesized from 2-bromo-5-methylnitrobenzene in the same manner as in Production Example 1a, followed by stirring at room temperature overnight. 50 ml of a 1N aqueous sodium hydroxide was added thereto, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over magnesium sulfate and concentrated. Then, the residue was purified by silica gel column chromatography, to give 6.7 g of the title compound.

reactant | N-chlorosuccinimide | 30.0 mmol, 4.0 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 7-bromo-4-methyl-1H-indole | 27.6 mmol, 5.8 g | BrC=1C=CC(=C2C=CNC12)C | C9H8BrN
reactant | 2-bromo-5-methylnitrobenzene | BrC1=C(C=C(C=C1)C)[N+](=O)[O-] | C7H6BrNO2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 7-Bromo-3-chloro-4-methyl-1H-indole | 6.7 g | BrC=1C=CC(=C2C(=CNC12)Cl)C | C9H7BrClN
